US05741785
2-Carboxy-1-methyl-7-methylsulfonylimidazo[1,2-a]quinoxalin-4(5H)-one
A suspension of 2-ethoxycarbonyl-1-methyl-7-methylsulfonylimidazo[1,2-a]quinoxalin-4(5H)-one (430 mg, 1.23 mmol) in 2M potassium hydroxide (15 ml) was stirred at 80° C. for 6 h. The reaction mixture was added water (10 ml) and pH adjusted to pH 7 with 1N hydrochloride acid. The precipitate was filtered off and washed with water to give 100 mg (25%) of the title compound as the potassium salt. M.p. 228° C.

reactant | 2-ethoxycarbonyl-1-methyl-7-methylsulfonylimidazo[1,2-a]quinoxalin-4(5H)-one | 1.23 mmol, 430 mg | C(C)OC(=O)C=1N=C2N(C3=CC=C(C=C3NC2=O)S(=O)(=O)C)C1C | C15H15N3O5S
reactant | water | 10 ml | O | H2O
reactant | hydrochloride | 1N | Cl | ClH
solvent | potassium hydroxide | 2M, 15 ml | [OH-].[K+]
product | 2-Carboxy-1-methyl-7-methylsulfonylimidazo[1,2-a]quinoxalin-4(5H)-one | 100 mg, 25% | C(=O)(O)C=1N=C2N(C3=CC=C(C=C3NC2=O)S(=O)(=O)C)C1C | C13H11N3O5S
